US05604004
Synthesis of ligand intermediate (4-tert-butylbenzaldehyde-phenylhydrazone)
In 20 ml of methanol was dissolved 2.18 g of phenylhydrazine. While metering, 3.24 g of 4-tert-butylbenzaldehyde was added dropwise to the solution. Reaction quickly took place. With heat release, the entire solution solidified. 5 ml of ethanol was added to the mass and the crystals were washed and collected by suction filtration. The crystals were washed with a small amount of methanol and dried in vacuum for 1.5 hours, obtaining 4.69 g (yield 93%) of pale yellow crystals.

reactant | phenylhydrazine | 2.18 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 4-tert-butylbenzaldehyde | 3.24 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | methanol | 20 ml | CO | CH4O
product | 4-tert-butylbenzaldehyde-phenylhydrazone | 4.69 g, yield 93% | C1(=CC=CC=C1)NN=CC1=CC=C(C=C1)C(C)(C)C | C17H20N2
